Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / adhesive tape / fentanyl
 
Attending: ___
 
Chief Complaint:
abnormal MRI
 
Major Surgical or Invasive Procedure:
___ Rt Shoulder Joint Fluid Aspiration (___)

 
History of Present Illness:
___ w/hx of COPD, NIDDM, bipolar d/o with psychotic features, 
HLD, lung nodules, recent neuro admission for seizures, 
presenting for possible osteomyelitis vs septic joint on MRI. 

On recent neuro admission, pt was found to have parietal 
hypodensity on NCCTH, developed grand mal seizures at ___, 
transferred to ___ for extended stay with titration of his 
AEDs. Pt had shoulder pain w/limited mobility over his 
admission, denying any trauma at that time. Shoulder xray was 
neg, scheduled outpatient MRI as c/f rotator cuff tear after DC 
to rehab. MRI from ___ showed large joint effusion with c/f OM 
on septic arthritis vs crystal arthropathy. Pt was brought to ED 
to r/o infectious process. 

Pt states he has been having shoulder pain since his prior 
hospital admission. Pain has been constant. Pain with decreaesed 
ROM of his R shoulder. Denies any F/C/NS, N/V/D/C, CP/SOB/Palp, 
LH/dizziness, cuts or skin breakdown.

-In the ED, initial vitals: T97.6 80 141/73 18 98% RA   
-Exam sig for Pain with passive ROM of R shoulder. TTP. No 
erythema.
-Labs were significant for WBC 7.5, Hb 13.6, CRP 5.6, BUN 24, 
lac 1.6, joint fluid: WBC 29, PMN 19, no crystals
-Imaging showed:
___ shoulder tap--humeral head subchondral lucencies possibly 
reflecting osteonecrosis ; Uneventful fluoroscopic-guided 
aspiration of 35 cc pink serous fluid which was sent for Gram 
stain/culture as well as cell count and crystals. 
-In the ED, he received: 
00:10 PO Divalproex (EXTended Release) ___ mg 
00:10 PO/NG LACOSamide 200 mg
00:10 PO LevETIRAcetam 1500 mg
10:36 PO Divalproex (EXTended Release) 2500 mg 
10:36 PO/NG LACOSamide 200 mg 
10:36 PO LevETIRAcetam 1500 mg  

-Vitals prior to transfer: T___.6 61 163/92 18 98% RA  

Currently, pt has no complaints apart from shoulder pain. States 
has decreased ROM of Rt shoulder, Lt shoulder wnl. States he 
continues to feel saddened since the death of his wife in ___.
 
ROS: 10 point ROS neg except as noted in HPI
 

 
Past Medical History:
COPD
Bipolar D/O
DM
Lung nodules
chronic back pain
multiple rib fractures
seizures
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMIT EXAM
==========
VS: 97.5 175/86 70 18 98 RA  
GEN: AAox3, lying in bed, no acute distress, not excessively 
conversant
HEENT: Moist MM, anicteric sclerae, NCAT, PERRL, EOMI
NECK: Supple without LAD, no JVD  
PULM: CTABL no w/c/r
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, +BS, no HSM  
EXTREM: Warm, well-perfused, no ___ edema. Rt shoulder w/o 
warmth/erythema/swelling. Pain with active/passive movements, 
limiting exam. Lt shoulder FROM. +lesions on thumbs b/l
NEURO: CN II-XII grossly intact, motor function grossly normal, 
sensation grossly intact  

DISCHARGE EXAM
==============
VS: 98 162/82 53 19 98 RA 
GEN: AAox3, lying in bed, no acute distress, short answers, dark 
glasses on
HEENT: Moist MM, NCAT
PULM: CTABL no w/c/r, poor airway movement 
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, +BS, no HSM  
EXTREM: Warm, well-perfused, no ___ edema. Rt shoulder w/o 
warmth/erythema/swelling. Pain with active/passive movements, 
limiting exam. Lt shoulder FROM. +lesions on thumbs b/l
NEURO: motor function grossly normal, sensation grossly intact  
 
Pertinent Results:
ADMIT LABS
==========
___ 10:45PM BLOOD WBC-7.5 RBC-4.15* Hgb-13.6* Hct-41.0 
MCV-99* MCH-32.8* MCHC-33.2 RDW-12.1 RDWSD-43.8 Plt ___
___ 10:45PM BLOOD Neuts-62.6 ___ Monos-11.0 Eos-1.2 
Baso-0.8 Im ___ AbsNeut-4.66 AbsLymp-1.78 AbsMono-0.82* 
AbsEos-0.09 AbsBaso-0.06
___ 10:45PM BLOOD ___ PTT-31.3 ___
___ 10:45PM BLOOD Glucose-200* UreaN-24* Creat-1.0 Na-142 
K-3.7 Cl-104 HCO3-29 AnGap-13
___ 10:45PM BLOOD CRP-5.6*
___ 10:51PM BLOOD Lactate-1.6
___ 10:00AM JOINT FLUID WBC-29 ___ Polys-19 
___ ___ 10:00AM JOINT FLUID Crystal-NONE

DISCHARGE LABS
==============
___ 06:09AM BLOOD WBC-5.0 RBC-4.28* Hgb-14.1 Hct-42.4 
MCV-99* MCH-32.9* MCHC-33.3 RDW-12.2 RDWSD-44.1 Plt ___
___ 06:09AM BLOOD Glucose-84 UreaN-26* Creat-1.0 Na-146* 
K-3.6 Cl-107 HCO3-27 AnGap-16
___ 06:09AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0 Iron-121
___ 06:09AM BLOOD calTIBC-220* Ferritn-435* TRF-169*

MICRO
======
___ 10:00 am JOINT FLUID      SYNOVIAL FLUID .RIGHT 
___. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 10:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 10:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING
=======
INJ/ASP MAJOR JT W/FLUORO Study Date of ___  
1.  Findings - humeral head subchondral lucencies possibly 
reflecting 
osteonecrosis. 
2.  Procedure - Uneventful fluoroscopic-guided aspiration of 35 
cc pink serous fluid which was sent for Gram stain/culture as 
well as cell count and crystals. 

 
Brief Hospital Course:
Mr ___ is a ___ w/hx of COPD, NIDDM, bipolar d/o with 
psychotic features, HLD, lung nodules, recent neuro admission 
for seizures, presenting to ED from rehab, for possible 
osteomyelitis vs septic joint on outpatient MRI. ___ tap in ED 
showing blood, rare WBCs, no crystals, unlikely to be infected, 
seen by Ortho, cleared for outpatient f/u.

# Shoulder Pain: MRI c/f OM/septic arthritis, also showing 
severe OA and osteonecrosis. As there was c/f infxn, pt came to 
ED. No signs of septic joint from ___ tap in ED, no crystals seen 
as well, tap showed bloody effusion. CRP only mildly elevated 
and ESR wnl, pt w/o f/c or leukocytosis, making OM highly 
unlikely. pt denying hx of trauma/surgery, unclear why would 
have isolated severe OA/hemarthrosis. Per Ortho can f/u with 
sports clinic in ___ wks, ortho apt made for ___. Pain 
controlled with oxycodone. Iron studies showing trans sat>50%, 
ferritin>400; as pt w/hx of DM, and isolated joint deformity, 
mild c/f hemochromatosis, can consider repeat iron studies 
 
CHRONIC ISSUES
==============
# Recent Seizure Hx: c/w home keppra, vimpat, Depakote. no 
seizure activity while inpatient, tolerating meds well
# DM2: HISS while inpatient
# PSYCH: c/w home trazodone
# HTN: c/w home Metop, Imdur
# COPD: c/w home fluticasone
# MEDREC: c/w home ___ 81, vitd, nicotine td, folic acid

TRANSITIONAL ISSUES
===================
-per Ortho, should f/u in sports clinic, ortho apt made for ___
-Pt with transferrin sat>45% and ferritin >200 w/isolated severe 
joint erosion, hx of DM. c/f hemochromatosis, consider repeat 
iron studies and further w/u as outpatient
-Pt restarted on most of his home meds, continued on AEDs w/o 
seizures
-Pt's ibuprofen held in setting of hemarthrosis 
-Pt given short course of oxycodone for pain control of shoulder 


# CODE STATUS: Presumed Full 
# CONTACT: ___ 
Relationship: Brother 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. Divalproex (EXTended Release) ___ mg PO QHS 
3. Divalproex (EXTended Release) 2500 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. LACOSamide 200 mg PO BID 
9. LevETIRAcetam 1500 mg PO BID 
10. Lidocaine 5% Patch 1 PTCH TD QPM 
11. TraZODone 25 mg PO QHS:PRN insomnia 
12. Vitamin D 800 UNIT PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. Atorvastatin 80 mg PO QPM 
15. Fluticasone Propionate 110mcg 2 PUFF IH BID 
16. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
17. Metoprolol Tartrate 25 mg PO BID 
18. Nicotine Patch 14 mg TD DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth q8h prn Disp #*15 
Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Divalproex (EXTended Release) ___ mg PO QHS  
6.  Divalproex (EXTended Release) 2500 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
11.  LACOSamide 200 mg PO BID  
12.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
13.  LevETIRAcetam 1500 mg PO BID  
14.  Lidocaine 5% Patch 1 PTCH TD QPM  
15.  Metoprolol Tartrate 25 mg PO BID  
16.  Nicotine Patch 14 mg TD DAILY  
17.  TraZODone 25 mg PO QHS:PRN insomnia  
18.  Vitamin D 800 UNIT PO DAILY  
19. HELD- Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate  This 
medication was held. Do not restart Ibuprofen until discuss with 
the orthopedic surgeons about the blood in your joint

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
=======
Rt shoulder hem effusion

Secondary
=========
hx of grand mal seizures
dm2
htn
copd

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after your shoulder 
MRI showed concerns for an infection. We tapped the fluid in 
your shoulder with a needle and fortunately it does not appear 
that there is an infection present. Please follow up with the 
outpatient orthopedist.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___